US06174877B1
1-(2-Pyridyl)-3-(2-tetrahydropyranyloxy)-2-propanol
2-Bromopyridine (9.48 g) was dissolved in diethyl ether (100 ml). To the solution was added dropwise, at −70° C., n-butyl lithium (a 1.6M hexane solution, 37.5 ml). The mixture was stirred for 5 minutes at the same temperature. To the reaction mixture was added a solution of 2-(2-tetrahydropyranyloxymethyl)oxetane (3.13 g) in diethyl ether (10 ml). To the mixture was added boron trifluoride ethyl etherate (7.6 ml), followed by stirring for 20 minutes at the same temperature. To the reaction mixture was added an aqueous solution of sodium hydrogencarbonate (60 ml), followed by extraction with ethyl acetate four times. The organic layer was dried over anhydrous sodium sulfate, which was then concentrated. The concentrate was purified by means of a column chromatography (carrier: silica gel, 200 g, developing solvent: ethyl acetate-hexane, 4:1) to give the title compound (1.19 g).

reactant | 2-Bromopyridine | 9.48 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2-(2-tetrahydropyranyloxymethyl)oxetane | 3.13 g | O1C(CCCC1)OCC1OCC1 | C9H16O3
reactant | boron trifluoride ethyl etherate | 7.6 ml | B(F)(F)F.CCOCC
reactant | sodium hydrogencarbonate | 60 ml | C(O)([O-])=O.[Na+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | hexane | 1.6M | CCCCCC | C6H14
product | 1-(2-Pyridyl)-3-(2-tetrahydropyranyloxy)-2-propanol | 1.19 g | N1=C(C=CC=C1)CC(COC1OCCCC1)O | C13H19NO3
